US07112698B2
Anhydrous potassium carbonate (1.5 g, 5.4 mmol) and sodium iodide (0.108 g, 0.36 mmol) were added to 3,4-dihydroxybenzaldehyde (0.5 g, 3.6 mmol), In butanone (25 ml), at room temperature. The reaction was stirred for 10 min after which butyl bromide (0.777 ml, 3.6 mmol) was added dropwise and the reaction was refluxed for 3 h. The reaction mixture was diluted with water and the product was extracted with dichloromethane (3×25 ml), the combined organic layers were dried over magnesium sulphate and reduced in vacuo. Purification by column chromatography (SiO2, petroleum:ether (40:60 v/v) with an increasing gradient of ethyl acetate) afforded 0.5 g (71%) of 3-hydroxy-4-butoxybenzaldehyde as an off-white solid.

reactant | potassium carbonate | 5.4 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.36 mmol, 0.108 g | [I-].[Na+]
reactant | 3,4-dihydroxybenzaldehyde | 3.6 mmol, 0.5 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | butyl bromide | 3.6 mmol, 0.777 ml | C(CCC)Br | C4H9Br
solvent | butanone | 25 ml | CC(CC)=O | C4H8O
solvent | water | O | H2O
product | 3-hydroxy-4-butoxybenzaldehyde | 0.5 g, 71% | OC=1C=C(C=O)C=CC1OCCCC | C11H14O3
